US04089855
One gram of potassium metal is reacted with t-butyl alcohol in anhydrous benzene to give potassium-t-butoxide. This suspension is heated with 2.5 g of N-cyclobutylmethyl-3-methoxy-6β,14β-dihydroxy-morphinan and 16 g of benzophenone under reflux for 3 hours. The reaction mixture is then extracted with three 20 ml portions of 2N hydrochloric acid, the combined acid extracts are made alkaline to a pH of 9.0, re-extracted with chloroform, and the solvent removed, after drying, in vacuo. The product is extracted from the insolubles with ether, and then the methoxy group is removed as follows to give N-cyclobutylmethyl-3,14β-dihydroxy-6-ketomorphinan: 15 g of the methoxy compound and 30 g of pyridine hydrochloride are heated together under a N2 atmosphere at 190°-196° C. for 4 hours, and the pyridine is distilled off during the heating period. After cooling to room temperature, 25 ml of water is added and the mixture is poured into an additional 100 ml. cold water. The pH is adjusted to 11.5 with 20% aqueous NaOH with cooling and insoluble material filtered off. The pH of the filtrate is then adjusted to 8.5-9.0 with HCl and stirred for 4 hours until crystallization occurs. The product is filtered off and recrystallized from acetone-methanol.

reactant | N-cyclobutylmethyl-3-methoxy-6β,14β-dihydroxy-morphinan | 2.5 g | C1(CCC1)CN1[C@H]2[C@@]3(CC[C@H](C[C@@]3(C=3C=C(C=CC3C2)OC)CC1)O)O | C22H31NO3
reactant | benzophenone | 16 g | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
product | N-cyclobutylmethyl-3,14β-dihydroxy-6-ketomorphinan | C1(CCC1)CN1[C@H]2[C@@]3(CCC(C[C@@]3(C=3C=C(C=CC3C2)O)CC1)=O)O | C21H27NO3
